US08039450B2
19af 4-(5-cyano-2-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)benzyl)morpholine hydrochloride (D32)
A mixture of 4-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)-3-(morpholinomethyl)benzonitrile (0.391 g, 1.12 mmol), 4 M HCl in dioxane (0.335 mL, 1.34 mmol), ether (10 mL), and THF (3 mL) were stirred at room temperature for five minutes. Filtered the precipitate and dried under reduced pressure. The solid was washed in THF and the solid was again filtered and dried under reduced pressure to give the target compound (0.258 g, 60%).

reactant | 4-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)-3-(morpholinomethyl)benzonitrile | 1.12 mmol, 0.391 g | OB1OCC2=C1C=CC(=C2)OC2=C(C=C(C#N)C=C2)CN2CCOCC2 | C19H19BN2O4
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 1.34 mmol, 0.335 mL | O1CCOCC1 | C4H8O2
reactant | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ether | 10 mL | CCOCC | C4H10O
product | 4-(5-cyano-2-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)benzyl)morpholine hydrochloride | 0.258 g, 60% | Cl.C(#N)C=1C=CC(=C(CN2CCOCC2)C1)OC1=CC2=C(B(OC2)O)C=C1 | InChI=1S/C19H19BN2O4.ClH/c21-11-14-1-4-19(15(9-14)12-22-5-7-24-8-6-22)26-17-2-3-18-16(10-17)13-25-20(18)23;/h1-4,9-10,23H,5-8,12-13H2;1H
